US07064123B1
3-(3-Bromo-phenyl)-2-benzylsulfonylmethyl-propionic acid (0.5 g, 1.26 mmol) was dissolved in toluene (20 mL) and ethanol (5 mL). Tetrakistriphenylphosphine palladium (146 mg, 0.126 mmol) was added and the mixture was stirred at ambient temperature under nitrogen for 30 minutes. Powdered potassium carbonate (870 mg, 6.3 mmol) and phenylboronic acid (200 mg, 1.64 mmol) were added, and the reaction mixture was heated at 75° C. for 2 hours. After cooling, the mixture was acidified with 1N aqueous HCl and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried with magnesium sulfate and evaporated. The acid was purified by flash chromatography on silica gel (ethyl acetate/hexane; 1:1) to yield 3-biphenyl-3-yl-2-benzylsulfonylmethyl-propionic acid (0.40 g).

reactant | 3-(3-Bromo-phenyl)-2-benzylsulfonylmethyl-propionic acid | 1.26 mmol, 0.5 g | BrC=1C=C(C=CC1)CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C17H17BrO4S
reactant | potassium carbonate | 6.3 mmol, 870 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 1.64 mmol, 200 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-biphenyl-3-yl-2-benzylsulfonylmethyl-propionic acid | 0.40 g | C1(=CC(=CC=C1)CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)C1=CC=CC=C1 | C23H22O4S
